US08809267B2
2-[2-Ethyl-1-(2,2,2-trifluoro-1,1-dimethyl-ethoxysulfonylaminocarbonyl)-cyclopropylcarbamoyl]-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared according to the method presented in Example 27. Treatment of 2-(1-carboxy-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.01 mmol) occurred under the same conditions, adjusted for scale with the exception of utilizing sulfamic acid 2,2,2-trifluoro-1,1-dimethyl-ethyl ester to afford acylsulfamate (450 mg, 65%): LCMS found 688.9 [M+H]+.

reactant | 2-(1-carboxy-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.01 mmol | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)CC)C(=O)O)=O | C26H33N3O7
reactant | sulfamic acid 2,2,2-trifluoro-1,1-dimethyl-ethyl ester | FC(C(C)(C)OS(N)(=O)=O)(F)F | C4H8F3NO3S
product | 2-[2-Ethyl-1-(2,2,2-trifluoro-1,1-dimethyl-ethoxysulfonylaminocarbonyl)-cyclopropylcarbamoyl]-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)CC)C(=O)NS(=O)(=O)OC(C(F)(F)F)(C)C)=O | C30H39F3N4O9S
